US04346088
(b) 3-Methyl-4-oxo-2-phenyliminothiazolidine
4 g of 3-methyl-4-oxo-2-phenyliminothiazolidine hydrobromide are suspended in 100 ml of ethanol and 8.4 g of triethylamine are added. The resulting solution is stirred for 3 hours at room temperature, the ethanol is distilled off, water is added to the residue, the mixture is extracted several times with ethyl acetate and, after drying the organic phases over sodium sulfate, the solvent is distilled off. Yellow viscous oil.

reactant | 3-methyl-4-oxo-2-phenyliminothiazolidine hydrobromide | 4 g | Br.CN1C(SCC1=O)=NC1=CC=CC=C1
reactant | triethylamine | 8.4 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Methyl-4-oxo-2-phenyliminothiazolidine | CN1C(SCC1=O)=NC1=CC=CC=C1 | C10H10N2OS
